US04272437
cis 3-Azidocyclobutane carboxylic acid
To a solution of cis-3-carbomethoxycyclobutylazide (2.8 g, 18.0 mmol) in methanol (8 ml) was added water (8 ml). The resulting cloudy solution was well stirred and treated dropwise (0.5 h) with an aqueous solution of sodium hydroxide (1N, 18.0 ml) at such a rate that the temperature was kept under 28° C. The reaction mixture was stirred at 23° C. for 2 h and the solvents were evaporated in vacuo to a yellow residue which was diluted with water (12 ml). The aqueous solution was washed with ether (2×15 ml), acidified with 1N hydrochloric acid and extracted with dichloromethane (4×30 ml). The organic extracts were combined, washed with water, dried over anhydrous sodium sulfate and concentrated to a colorless oil; 2.29 g, 90%; ir (neat) νmax : 2100 (N3) and 1705 cm-1 (C=O of carboxylic acid); 1Hmr (CDCl3) δ: 11.88 (1H, s, H of carboxylic acid), 3.8 (1H, m, H-1) and 3.2-2.0 ppm (5H, 2H-2, H-3 and 2H-4).

reactant | cis-3-carbomethoxycyclobutylazide | 18.0 mmol, 2.8 g | C(=O)(OC)[C@H]1C[C@H](C1)N=[N+]=[N-] | C6H9N3O2
reactant | water | 8 ml | O | H2O
reactant | sodium hydroxide | 1N, 18.0 ml | [OH-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | cis 3-Azidocyclobutane carboxylic acid | N(=[N+]=[N-])[C@H]1C[C@H](C1)C(=O)O | C5H7N3O2
